Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
episodes of loss of consciousness
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ left handed man with a history of
febrile seizures as a child and drug abuse who presents with
multiple possible seizures. He was working today in the hot sun
when he became lightheaded and passed out for a few seconds
(without seizure activity). Around 30 minutes later he had a
witnessed episode of LOC. His co-workers saw his eyes roll back
and he convulsed for ~5 minutes per the patient (versus ___
seconds per other report). EMS was called and he was seen at the
___. ___ was unremarkable and he was discharged home w/
neurology follow up. However, after discharge, patient had a
third episode in the parking lot of the hospital, witnessed by
his friend. This lasted ___ seconds described as LOC and
convulsion. He re-presented to ___. For post ictal
agitation, he was given Ativan and Valium. He was started on
Keppra (1g per report, 500mg per ___ records). He complained
of neck pain and headache, presumed secondary to an injury from
his fall, and C-spine CT was done and showed no fracture. He was
transferred to ___ ___ for further evaluation. He has a tongue
bite. He had no incontinence. He had no prodrome before the two
convulsive events. 

His parents are concerned that his alcohol use is the reason for
his seizures. He drinks almost daily, several drinks per day. He
denies his alcohol use being a problem and denies having every
had withdrawal symptoms. His parents do think his alcohol use is
an issue however and report that ___ he was found
unresponsive in the front yard by neighbors, who thought he was
dead, after he went out drinking. His last drink was 2 days ago.

He had ___ febrile seizures as a child but grew out of these by
age ___ and has had none since. He denies a history of abnormal
smells, ___, shaking episodes, and hallucinations. He has 
had
no recent fever or infectious symptoms. Currently he has a
bitemporal HA and left sided neck pain, which he attributes to
his falls today. He denies pain with eye movements and
photophobia.
 
Review of Systems:
The pt denies loss of vision, blurred vision, diplopia,
dysphagia, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait. The pt
denies recent fever or chills. Denies cough, shortness of 
breath.
Denies chest pain or palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria. Denies rash.

 
Past Medical History:
febrile seizures as a child
substance abuse
insomnia
anxiety
 
 
Social History:
___
Family History:
Family History:
- Denies neurologic disease in the family

 
Physical Exam:
PHYSICAL EXAMINATION
General: appears annoyed
HEENT: +tongue bite on left tongue. otherwise, non-traumatic
Neck: Supple without meningismus. Negative Kernig and
Brudzinski's signs.
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: some scabs on ankles bilaterally.
 
NEUROLOGIC EXAMINATION
-Mental Status: Awake and alert.  When recounting the events of
the day he mixes up the details a couple times. Language is
fluent with intact repetition and normal prosody.  There were no
paraphasic errors.  Pt was able to name both high and low
frequency objects. Speech was mildly dysarthric.  Able to follow
both midline and appendicular commands.  Attentive, able to name
___ backward without difficulty.  Able to register 3 objects and
recall ___ at 5 minutes.  There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
counting.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk throughout. No pronator drift bilaterally. 
No
tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     2    2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. 

-Coordination: No dysmetria on FNF bilaterally. 
 
Pertinent Results:
ADMISSION LABS

___ 05:05AM BLOOD WBC-6.7 RBC-3.86* Hgb-11.8* Hct-36.0* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-13.1 RDWSD-44.5 Plt ___
___ 05:05AM BLOOD Glucose-90 UreaN-9 Creat-0.6 Na-139 K-4.3 
Cl-105 HCO3-26 AnGap-12
___ 05:05AM BLOOD ALT-15 AST-19 LD(LDH)-158 AlkPhos-76 
TotBili-0.3
___ 05:05AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1
___ 05:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 11:00AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-POS*

Routine EEG ___

IMPRESSION: normal awake and asleep EEG. There were no focal 
abnormalities, epileptiform discharges, or electrographic 
seizures. 

MRI brain w/wo contrast ___

IMPRESSION: 
1. Study is moderately degraded by motion. 
2. Nonspecific white matter lesions in bilateral occipital lobes 
and left 
parietal lobe.  Differential considerations include postictal 
edema, sequela of prior infection or trauma, demyelinating or 
inflammatory process, history of migraine headaches, or 
microangiopathic changes. 
3.  Paranasal sinus disease and new nonspecific right mastoid 
opacification, as described. 

 
Brief Hospital Course:
Patient was admitted to Neurology for evaluation of two events 
concerning for seizures. The history of events could not 
differentiate between true seizures vs convulsive syncope. 
However, he did reveal that he binged on alcohol 3 days prior to 
the events, and he also ran out of his gabapentin and stopped 
that 3 days prior as well. Therefore the probability of 
withdrawal seizures was high. Given he does have risk factor for 
epilepsy (febrile seizures as child), he underwent workup with 
routine EEG and MRI brain which did not reveal any 
abnormalities. He was also monitored on the CIWA scale but did 
not exhibit signs concerning for withdrawal.

He was discharged home with instructions to continue his 
gabapentin as prescribed without stopping suddenly, and to seek 
psychiatric care for management of his anxiety and substance 
abuse.

Transitional issues:
[ ] Please counsel substance abuse. Per patient's parents, they 
plan to section 35 to admit him to inpatient alcohol 
detoxification program.
[ ] Please reconsider use of Seroquel as an anxiolytic agent. 
Consider trazodone or other agents with lower side effect 
profile.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO BID 
2. Gabapentin 600 mg PO TID 
3. Methadone 100 mg PO DAILY 

 
Discharge Medications:
1. Gabapentin 600 mg PO TID 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times daily 
Disp #*45 Tablet Refills:*0
2. Methadone 100 mg PO DAILY 
3. QUEtiapine Fumarate 25 mg PO BID:PRN anxiety 
4. Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour apply one patch to skin 
daily Disp #*21 Patch Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Probable seizures secondary to gabapentin and alcohol withdrawal
History of substance use
Alcohol abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for two events that appeared 
suspicious for seizure, although we also considered the 
possibility of syncope (or passing out). We discovered that you 
had recently stopped your gabapentin completely, which could be 
a cause of withdrawal seizure. We performed an EEG which is a 
study to examine the electrical activity in your head to 
determine any risk for epilepsy. This was normal. We also 
performed an MRI of your brain which did not reveal any 
abnormalities.

You should resume your gabapentin. If you run out, please call 
your provider immediately as stopping this suddenly can often 
cause a seizure. Please seek assistance with your heavy alcohol 
use as this can also be a risk factor for further seizures. We 
also recommend following up with your behavioral medicine 
provider to address your anxiety as Seroquel may not be an ideal 
medication for you due to the risk of side effects.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___